US04029787
3-(N-methylcyclohexylaminosulfonyl)-4-(4-methylpiperazine-1-yl)-benzoic acid
The reaction was carried out in a manner analogous to that of Example 31, using 33 g of 4-chloro-3-(N-methylcyclohexylaminosulfonyl)-benzoic acid and 30 g of N-methylpiperazine. The moist crude product, which had been washed with water, was freed from by-products by boiling with methanol.

reactant | 4-chloro-3-(N-methylcyclohexylaminosulfonyl)-benzoic acid | 33 g | ClC1=C(C=C(C(=O)O)C=C1)S(=O)(=O)N(C)C1CCCCC1 | C14H18ClNO4S
reactant | N-methylpiperazine | 30 g | CN1CCNCC1 | C5H12N2
product | 3-(N-methylcyclohexylaminosulfonyl)-4-(4-methylpiperazine-1-yl)-benzoic acid | CN(S(=O)(=O)C=1C=C(C(=O)O)C=CC1N1CCN(CC1)C)C1CCCCC1 | C19H29N3O4S
